US07498346B2
To a suspension of 2-amino-5-bromo-4,6-dimethylpyridine (4.02 g, 20.0 mmol) in HBF4 (48% in water, 15 mL) cooled in an ice bath was added a solution of NaNO2 (1.73 g, 25.0 mmol) in water (5 mL). The reaction mixture turned clear, and 10 min later a precipitate was formed. The precipitate was collected by filtration, dried under vacuum and added to hot heptane (100 mL) pre-heated at 90° C. After heated at 90° C. for 2 h the mixture was cooled to room temperature and filtered. The filtrate was concentrated under vacuum to afford 3-bromo-2,4-dimethyl-6-fluoropyridine as a pale yellow solid (1.45 g, 36%). 1H NMR (CDCl3): δ 2.43 (s, 3H), 2.61 (s, 3H), 6.66 (d, 1H, J=3.0 Hz). 19F NMR (CDCl3): δ 3.24.

reactant | 2-amino-5-bromo-4,6-dimethylpyridine | 20.0 mmol, 4.02 g | NC1=NC(=C(C(=C1)C)Br)C | C7H9BrN2
reactant | NaNO2 | 25.0 mmol, 1.73 g | N(=O)[O-].[Na+]
reactant | HBF4 | 15 mL | [H+].[B-](F)(F)(F)F
solvent | water | 5 mL | O | H2O
product | 3-bromo-2,4-dimethyl-6-fluoropyridine | 1.45 g, 36% | BrC=1C(=NC(=CC1C)F)C | C7H7BrFN
